Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I feel depressed"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Four days ago, began having thoughts of killing himself by
drinking daino. This morning, he smoked crack and later walked
over to his therapist's office unscheduled, reporting this plan.
Was sent here by ambulance.

The patient reports that he has been feeling "empty,"
"depressed," and "lonely." Has been experiencing insomnia ___
hrs/night), anhedonia, and impaired energy and concentration. 

He reports multiple social stressors. After ___ years of sobriety,
he relapsed 4 months ago and lost his job as a substance abuse
___. Three days ago, he quit his job in ___,
saying that the job was "killing" him. His girlfriend also broke
up with him, although he talks about her as if they are still
dating. 

PSYCHIATRIC HISTORY:
  Hospitalizations: Denies
  SA/SIB: Denies
  Violence: ___
  Psychiatrist: ___, MD ___ 
___)
  Therapist: ___, ___ ___

 
Past Medical History:
PAST MEDICAL HISTORY:
  * h/o Head Trauma - Age ___, fall from 2-story garage, +LOC
  * s/p Umbilical Hernia Repair
  * Blood in Stool w/ Normal Colonoscopy
  * Sciatic x ___
  * ___ MVA's, as passenger

 
Social History:
SOCIAL HISTORY:
  * Born/Raised: ___ 
  * Education: Received some computer training, but did not 
      receive a degree. Also completed substance abuse 
      counseling training.
  * Family/Support: Has a sister who works at ___. Reports 
      having several people he can confide in, especially his 
      best friend's sister, ___.
  * Housing: Lives in a town house in ___.
  * Employment/Income: Worked as a substance abuse counselor for 

      ___ years, but then lost his job 4 months ago when he 
      relapsed. Got a job in ___, but quit this past 
      ___.
  * Legal: ___
  * Access to Weapons: Denies
  * Trauma: Verbal/emotional abuse by father
 

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
  * Grandmother: ___
  * No h/o SA's

 
Physical Exam:
MENTAL STATUS EXAM:
    APPEARANCE: Appropriately groomed ___ man lying 

      in bed, non-diaphoretic.
    BEHAVIOR: No tremor or other abnormal movements noted.
    ATTITUDE: Initially seemed reluctant to accept a handshake 
      and to talk, but was cooperative and soon began opening up 

      about his problems/feelings.
    SPEECH: Slow, but o/w normal
    MOOD: "Depressed"
    AFFECT: Constricted, tearful
    THOUGHT FORM: Linear
    THOUGHT CONTENT: Rumination about (ex-)girlfriend. (At one 
      point, showed me a picture of a woman on his cell phone, 
      saying sadly, "This is my woman.") No evidence of 
      delusions.
    ABNORMAL PERCEPTIONS: Denies AH/VH
    SI/HI: SI with plan, as above. Denies current desire to hurt 

      anyone.
    INSIGHT: Fair
    JUDGMENT: Fair
    COGNITIVE ASSESSMENT:
       SENSORIUM: Alert
       ORIENTATION: To situation, ___" ___
       ATTENTION: Correct MOYB
       MEMORY: ___ recall
       CALCULATIONS: $1.75 = 7q
       FUND OF KNOWLEDGE: 
       PROVERB INTERPRETATION: "Grass is greener" = "I can't 
         really explain it." "Don't cry over spilled milk" 
         = "Get over it. You can't change what happened." 
       SIMILARITIES/ANALOGIES: Apples/Oranges "Shape"

 
Pertinent Results:
___ 02:00PM   GLUCOSE-88 UREA N-18 CREAT-1.2 SODIUM-138 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-29 ANION GAP-9
___ 02:00PM   ALT(SGPT)-35 AST(SGOT)-21 ALK PHOS-80 TOT 
BILI-0.7
___ 02:00PM   ALBUMIN-4.3 CALCIUM-9.4 PHOSPHATE-3.1 
MAGNESIUM-2.3
___ 02:00PM   %HbA1c-4.9 eAG-94
___ 02:00PM   WBC-6.4 RBC-4.69 HGB-14.8 HCT-43.1 MCV-92 
MCH-31.5 MCHC-34.3 RDW-13.3
___ 02:00PM   NEUTS-47.0* LYMPHS-45.2* MONOS-4.9 EOS-2.3 
BASOS-0.5
___ 02:00PM   PLT COUNT-247
___ 02:00PM   ___ PTT-21.9* ___
___ 09:58PM URINE  HOURS-RANDOM
___ 09:58PM URINE  HOURS-RANDOM
___ 09:58PM URINE  GR HOLD-HOLD
___ 09:58PM URINE  bnzodzpn-POS barbitrt-NEG opiates-NEG 
cocaine-POS amphetmn-NEG mthdone-NEG
___ 09:58PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:58PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.0 
LEUK-NEG
___ 04:23PM   GLUCOSE-88 UREA N-20 CREAT-1.2 SODIUM-142 
POTASSIUM-3.4 CHLORIDE-104 TOTAL CO2-27 ANION GAP-14
___ 04:23PM   estGFR-Using this
___ 04:23PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-POS barbitrt-NEG tricyclic-NEG
___ 04:23PM   WBC-8.3 RBC-4.22* HGB-13.6* HCT-39.7* MCV-94 
MCH-32.3* MCHC-34.3 RDW-13.2
___ 04:23PM   PLT COUNT-271
 
Brief Hospital Course:
Mr. ___ was admitted to the psych inpatient unit after he 
presented to the therapsit with suicidal ideations. Apparently 
he has been using multiple ilicits over last few weeks after 
being sober for few years.

He was evaluated and observed closely in the psych unit. He 
improved and denied any suicial or homicidal thoughts while in 
the unit. He was continued on home medications including 
trazodone. He was prescribed flexeril and tramodol (his home 
meds) for control of sciatica type back pain.

He was started on depakote SR in the dose of 500 BID for control 
of impulsivity and for mood stabilisation. We checked his labs 
before starting depakote. He was advised to follow up with his 
outpatient providers and the apppointments were made. 
 
Medications on Admission:
MEDICATIONS ON ADMISSION:
  * Trazadone 100mg PO QHS
  * (Also prescribed, but does not take, citalopram, flexeril, 
      and toradol)

 
Discharge Medications:
1. nicotine 14 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).
Disp:*30 Patch 24 hr(s)* Refills:*0*
2. trazodone 100 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
3. fluoxetine 20 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
4. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. cyclobenzaprine 10 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) as needed for pain.  
8. tramadol 50 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for pain.  
9. divalproex ___ mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO BID (2 times a day).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
10. hydroxyzine HCl 25 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for anxiety for 10 days.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Substance induced mood disorder
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted for evaluation of worsening depression. You 
were started on Depakote for mood stabilisation. You are advised 
to avoid ilicit substances and to follow up with your providers.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Heart Healthy: Whenever possible, choose a variety of foods that 

are low in saturated fat/rich in polyunsaturated fats, low in 
simple sugars/rich in whole grains, and rich in fruits and 
vegetables.
Please call ___ or consult the nearest ED if you experience any 
of the following :

-Confusion or thoughts that people are out to harm you
-Thoughts of hurting yourself or others
-Hearing voices or experiencing other hallucinations that are 
distressing to you
-Severe depression or anxiety or feeling otherwise overwhelmed
 
 
  
 

 
Followup Instructions:
___